US09227956B2
Preparation 24, tert-butyl (3R)-3-{(3-methylpyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate (2.67 g, 5.12 mmol), Preparation 21, 4-iodo-1-methyl-1H-pyrazole-5-carbonitrile (1.19 g, 5.12 mmol), Pd2(dba)3 (234 mg, 0.256 mmol), and XPhos (257 mg, 0.512 mmol) were dissolved in dioxane (27 mL) under nitrogen atmosphere. A solution of Na2CO3 (1.63 g, 15.4 mmol) in H2O (3 mL) was added. The reaction was heated at 80° C. for 6 h, then stirred at room temperature overnight. The reaction mixture was diluted with EtOAc (150 mL), washed by 50% brine solution (100 mL). The separated organic phase was dried over MgSO4, concentrated. The residue was purified by silica gel column chromatography eluting with a gradient of 15-100% EtOAc/heptane to afford tert-butyl (3R)-3-{[4-(5-cyano-1-methyl-1H-pyrazol-4-yl)benzoyl](3-methylpyridin-2-yl)amino}piperidine-1-carboxylate as a colorless solid (1.87 g, 73% yield).

reactant | tert-butyl (3R)-3-{(3-methylpyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate | 5.12 mmol, 2.67 g | CC=1C(=NC=CC1)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C29H40BN3O5
reactant | 4-iodo-1-methyl-1H-pyrazole-5-carbonitrile | 5.12 mmol, 1.19 g | IC=1C=NN(C1C#N)C | C5H4IN3
reactant | XPhos | 0.512 mmol, 257 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 15.4 mmol, 1.63 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 27 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.256 mmol, 234 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl (3R)-3-{[4-(5-cyano-1-methyl-1H-pyrazol-4-yl)benzoyl](3-methylpyridin-2-yl)amino}piperidine-1-carboxylate | 1.87 g, 73% yield | C(#N)C1=C(C=NN1C)C1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2C)C=C1 | C28H32N6O3
